US05273680
3A 4-n-Hexyloxy-2-fluorobromobenzene
A solution of 1-bromohexane (9.33 g) in acetone (20 ml) is added dropwise to a stirred mixture of 4-bromo-3-fluorophenol (9.00 g) and potassium carbonate (13.5 g) in acetone 75 ml) at room temperature. The stirred mixture is heated under reflux for 21 h (i.e. until glc analysis revealed a complete reaction). The product is extracted into ether twice, and the combined ether extracts are washed with water, 10% sodium hydroxide, water and dried (MgSO4). The solvent is removed under vacuo and the residue is distilled (bp 100°-105° C. at 0.1 mm Hg) to yield a colourless liquid.

reactant | 1-bromohexane | 9.33 g | BrCCCCCC | C6H13Br
reactant | 4-bromo-3-fluorophenol | 9.00 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | potassium carbonate | 13.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 4-n-Hexyloxy-2-fluorobromobenzene | C(CCCCC)OC1=CC(=C(C=C1)Br)F | C12H16BrFO
